US07915250B2
A solution of tert-butyl acetate (566 μL, 4.2 mmol) in THF (10 mL) was cooled to −78° C. To the solution was added LHMDS (5.25 mL of a 1.0 M solution in hexanes, 5.25 mmol), and the resulting mixture was stirred for 20 min at −78° C. To the solution was added 1-(diphenylmethyl)azetidin-3-one (500 mg, 2.1 mmol), prepared using procedures similar to those described in Example 15. After stirring for 1 h, saturated aqueous ammonium chloride was added, and the mixture was warmed to rt. Water and ether were added, and the resulting biphasic mixture was partitioned. The aqueous phase was extracted once with ether. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by flash chromatography (80% hexanes:20% ethyl acetate) to provide 1,1-dimethylethyl [1-(diphenylmethyl)-3-hydroxyazetidin-3-yl]acetate as a pale yellow solid (644 mg, 1.8 mmol, 87% yield). 1H NMR (400 MHz, CDCl3): δ 7.40 (m, 4H), 7.26 (m, 4H), 7.19 (m, 2H), 4.40 (s, 1H), 4.02 (s, 1H), 3.15 (m, 2H), 3.05 (m, 2H), 2.83 (s, 2H), 1.45 (s, 9H).

reactant | tert-butyl acetate | 4.2 mmol, 566 μL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | LHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 1-(diphenylmethyl)azetidin-3-one | 2.1 mmol, 500 mg | C1(=CC=CC=C1)C(N1CC(C1)=O)C1=CC=CC=C1 | C16H15NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | Water | O | H2O
product | 1,1-dimethylethyl [1-(diphenylmethyl)-3-hydroxyazetidin-3-yl]acetate | 1.8 mmol, 644 mg, 87% yield | C1(=CC=CC=C1)C(N1CC(C1)(O)CC(=O)OC(C)(C)C)C1=CC=CC=C1 | C22H27NO3
